US05053416
1-methyl-3-(oxazol-2-yl)-pyridinium iodide.
11.3 g of [(3-oxazol-2-yl)-pyridine] prepared as indicated in Helv. Chim. Acta 45 375 (1962) and 22.4 g of methyl iodide in 150 cm3 of ethanol are heated under reflux for 2 hours, then the reaction medium is left for 2 days. The solvent is evaporated, the residue is crystallized from 95° ethanol and 17 g of product is obtained. M.p.=241° C. (decomp.) after recrystallization from ethanol.

reactant | (3-oxazol-2-yl)-pyridine | O1C(=NC=C1)C=1C=NC=CC1 | C8H6N2O
reactant | methyl iodide | 22.4 g | CI | CH3I
solvent | ethanol | 150 cm3 | C(C)O | C2H6O
product | 1-methyl-3-(oxazol-2-yl)-pyridinium iodide | 17 g | [I-].C[N+]1=CC(=CC=C1)C=1OC=CN1 | InChI=1S/C9H9N2O.HI/c1-11-5-2-3-8(7-11)9-10-4-6-12-9;/h2-7H,1H3;1H/q+1;/p-1
